US07112585B2
Part C. 5-(4-Methoxy-benzenesulfonyl)-2-methyl-4-(2,4,6-trimethylbenzyl)-pyrimidine
A mixture 5-(4-methoxy-benzenesulfonyl)-2-methyl-6-(2,4,6-trimethylbenzyl)-1,6-dihydro-pyrimidine (167 mg, 0.42 mmol), NMO (74 mg, 0.63 mmol), TPAP (29 mg, 0.084 mmol), 4 Å molecular sieves (200 mg) and CH2Cl2 (5 mL) was stirred under N2 at room temperature for 2 h. The mixture was filtered through a pad of silica gel and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica gel (67:33 hexanes/EtOAc) to provide the target compound (137 mg, 82%) as a light yellow solid: mp 150–152° C.; 1H NMR (500 MHz, CDCl3) δ 9.22 (s, 1H), 7.93 (d, J=8.9 Hz, 2H), 7.06 (d, J=8.9 Hz, 2H), 6.83 (s, 2H), 4.25 (s, 2H), 3.91 (s, 3H), 2.59 (s, 3H), 2.29 (s, 3H), 1.91 (s, 6H); ESI MS m/z 397 [(M+H)+, calcd for C22H25N2O3S, 397.2].

reactant | 5-(4-methoxy-benzenesulfonyl)-2-methyl-6-(2,4,6-trimethylbenzyl)-1,6-dihydro-pyrimidine | 0.42 mmol, 167 mg | COC1=CC=C(C=C1)S(=O)(=O)C1=CN=C(NC1CC1=C(C=C(C=C1C)C)C)C | C22H26N2O3S
reactant | NMO | 0.63 mmol, 74 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | TPAP | 0.084 mmol, 29 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-Methoxy-benzenesulfonyl)-2-methyl-4-(2,4,6-trimethylbenzyl)-pyrimidine | 137 mg, 82% | COC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)CC1=C(C=C(C=C1C)C)C | C22H24N2O3S
